US05840751
2-Phenoxyethyl-p-toluenethiosulfonate
The title compound was prepared as described in General Method 2 using 2-phenoxyethyl bromide (0.025 mmol), potassium thiotosylate (0.025 mmol) and DMF (100 mL) to give a solid. 1H NMR (CDCl3) δ 2.45 (s, 3 H), 3.34 (t, 2 H), 4.14 (t, 2 H), 6.80 (d, 2 H), 6.95 (t, 1 H), 7.26 (t, 2 H), 7.35 (d, 2 H), 7.82 (d, 2 H).

reactant | 2-phenoxyethyl bromide | 0.025 mmol | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | potassium thiotosylate | 0.025 mmol | S(=S)(=O)([O-])C1=CC=C(C)C=C1.[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-Phenoxyethyl-p-toluenethiosulfonate | O(C1=CC=CC=C1)CCOS(=O)(=S)C1=CC=C(C=C1)C | C15H16O3S2
